US04461770
10.8 g of benzyl 3-pyridyl ketone are stirred together with 40 ml of pyridine and a solution of 8 g of hydroxylamine hydrochloride in 15 ml of pyridine for 6 hours at 100°. The reaction mixture is poured onto ice/water and the resulting mixture is stirred for a further 15 minutes. The crystals which have precipitated are filtered off with suction, washed with water and dried under a high vacuum. Benzyl 3-pyridyl ketone oxime with a melting point of 122°-126° is obtained.

reactant | benzyl 3-pyridyl ketone | 10.8 g | N1=CC(=CC=C1)C(=O)CC1=CC=CC=C1 | C13H11NO
reactant | hydroxylamine hydrochloride | 8 g | Cl.NO
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | Benzyl 3-pyridyl ketone oxime | N1=CC(=CC=C1)C(CC1=CC=CC=C1)=NO | C13H12N2O
